US06114390
b) (R)-N-[[4-(Aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -[(2-naphthyl)methoxycarbonyl]-ornithinamide
Prepared analogously to Example 69a) from (R)-N5 -[amino(nitroimino)methyl]-N2 -[(2-naphthyl)methoxycarbonyl]-ornithine, 4-(aminocarbonylaminomethyl)benzenemethanamine and TBTU in a yield of 32% of theory. Colourless crystals, Mp. 155-160° C. (Methanol/glacial acetic acid 20/1, v/v).

reactant | (R)-N5 -[amino(nitroimino)methyl]-N2 -[(2-naphthyl)methoxycarbonyl]-ornithine | NC(NCCC[C@@H](NC(=O)OCC1=CC2=CC=CC=C2C=C1)C(=O)O)=N[N+](=O)[O-] | C18H21N5O6
reactant | 4-(aminocarbonylaminomethyl)benzenemethanamine | NC(=O)NCC1=CC=C(C=C1)CN | C9H13N3O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | Methanol | CO | CH4O
product | (R)-N-[[4-(Aminocarbonylaminomethyl)phenyl]methyl]-N5 -[amino(nitroimino)methyl]-N2 -[(2-naphthyl)methoxycarbonyl]-ornithinamide | yield of 32% | NC(=O)NCC1=CC=C(C=C1)CNC([C@H](NC(=O)OCC1=CC2=CC=CC=C2C=C1)CCCNC(=N[N+](=O)[O-])N)=O | C27H32N8O6
